US05968985
A mixture of dimethyl 5-hydroxyisophthalate (2 g) and N,N-dimethylethylenediamine (1.04 ml) was heated at 100° C. for 2 hours. After being cooled to room temperature, the reaction mixture was evaporated in vacuo. The residue was purified by column chromatography on silica gel eluting with a mixture of chloform, methanol and triethylamine (100:10:1) to give methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-hydroxybenzoate (1.11 g).

reactant | dimethyl 5-hydroxyisophthalate | 2 g | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | N,N-dimethylethylenediamine | 1.04 ml | CN(CCN)C | C4H12N2
product | methyl 3-[(2-dimethylaminoethyl)carbamoyl]-5-hydroxybenzoate | 1.11 g | CN(CCNC(=O)C=1C=C(C(=O)OC)C=C(C1)O)C | C13H18N2O4
